US06194425B1
A solution of (S)-(+)-5-oxo-2-tetrahydrofurancarboxylic acid (0.23 g, 1.7 mmole in anhydrous dichloromethane (30 mL) was slowly added to a solution of 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.5 g, 1.7 mmol) in anhydrous dichloromethane (100 mL). The reaction mixture was stirred at ambient temperature for 30 minutes and then a solution of 1-[3-(dimethoxyamino)propyl]-3-ethylcarbodiimide hydrochloride (0.37 g, 1.9 mmol) in anhydrous dichloromethane (50 mL) was added dropwise. The reaction mixture was stirred at ambient temperature overnight and then filtered to remove solids. The filtrate was washed twice with 10% sodium hydroxide and then with brine, dried, and then concentrated under vacuum to provide 0.3 g of crude product. This material was purified by column chromatography (silica gel eluting with dichloromethane) followed by recrystallization from acetonitrile to provide 0.1 g of N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-5-oxotetrahydro-2-furancarboxamide as a white powder, m.p. 153-154° C. Analysis: Calculated for C20H24N6O3: % C, 60.59; % H, 6.10; % N, 21.19; Found: % C, 60.34; % H, 6.14; % N, 21.13. HRMS (EI) calcd for C20H24N6O3 (M+) 396.1909 found 396.1905

reactant | (S)-(+)-5-oxo-2-tetrahydrofurancarboxylic acid | O=C1CC[C@H](O1)C(=O)O | C5H6O4
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 1.7 mmol, 0.5 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
reactant | 1-[3-(dimethoxyamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.9 mmol, 0.37 g | Cl.CON(CCCN=C=NCC)OC
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-5-oxotetrahydro-2-furancarboxamide | 0.1 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(=O)C2OC(CC2)=O)CCCC | C20H24N6O3
